US04272507
3.16 g (0.1 mole) of 3-(2,6-dichloroanilino)-4-methyl-2-thiophencarboxylic acid methyl ester are boiled in 300 ml of methanol and 100 ml of 6 N potassium hydroxide solution for six hours. Methanol is then distilled off, and the mixture is taken up in water and washed with toluene. The aqueous phase is acidified and extracted with ether. The organic phase is dried, clarified with bleaching earth (for example Tonsil®) and concentrated. Recrystallization of the residue from toluene gives 3-(2,6-dichloroanilino)-4-methyl-2-thiophencarboxylic acid (m. 157° to 158°).

reactant | 3-(2,6-dichloroanilino)-4-methyl-2-thiophencarboxylic acid methyl ester | 0.1 mole, 3.16 g | COC(=O)C=1SC=C(C1NC1=C(C=CC=C1Cl)Cl)C | C13H11Cl2NO2S
reactant | potassium hydroxide | 6 N, 100 ml | [OH-].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | 3-(2,6-dichloroanilino)-4-methyl-2-thiophencarboxylic acid | ClC1=C(NC2=C(SC=C2C)C(=O)O)C(=CC=C1)Cl | C12H9Cl2NO2S
